US08389513B2
5-Trifluoromethyl-pyrimidine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-1) and 5-trifluoromethyl-pyrimidine-2-carboxylic acid following procedure I yielded the title compound as a colorless oil. MS (ISP): m/z=434.2 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OCC1(F)F)N)C)F | C11H12F3N3O
reactant | 5-trifluoromethyl-pyrimidine-2-carboxylic acid | FC(C=1C=NC(=NC1)C(=O)O)(F)F | C6H3F3N2O2
product | 5-Trifluoromethyl-pyrimidine-2-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OCC([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=N1)C(F)(F)F)(F)F | C17H13F6N5O2
